US07060827B2
In like manner to the preparation of 2-chloro-5-fluoro-N4-[3-(1H-tetrazol-5-yl)phenyl]-4-pyrimidineamine the reaction of 2,4-dichloro-5-fluoropyrimidine with 3-amino-6-chloropyridine gave 2-chloro-N4-(6-chloropyridin-3-yl)-5-fluoro-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.53 (d, 1H, J=3 Hz), 8.25 (dd, 1H, J=3 and 9 Hz), 8.15 (d, 1H, J=2.4 Hz), 7.39 (d, 1H, J=8.7 Hz), 7.00 (bs, 1H); LCMS: purity: 98%; MS (m/e): 259 (M+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-amino-6-chloropyridine | NC=1C=NC(=CC1)Cl | C5H5ClN2
product | 2-chloro-N4-(6-chloropyridin-3-yl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC=1C=NC(=CC1)Cl)F | C9H5Cl2FN4
